US03992544
5-Benzyl-1-(p-chlorobenzyl)-4,5,6,7-tetrahydro-2,7-dimethyl-1H-pyrrolo[3,2-c]pyridine
Using a procedure analogous to Example 3, 3-acetonyl-1-benzyl-5-methyl-4-piperidone may be reacted with p-chlorobenzylamine to give the title compound.

reactant | 3-acetonyl-1-benzyl-5-methyl-4-piperidone | C(C(=O)C)C1CN(CC(C1=O)C)CC1=CC=CC=C1 | C16H21NO2
reactant | p-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 5-Benzyl-1-(p-chlorobenzyl)-4,5,6,7-tetrahydro-2,7-dimethyl-1H-pyrrolo[3,2-c]pyridine | C(C1=CC=CC=C1)N1CC2=C(C(C1)C)N(C(=C2)C)CC2=CC=C(C=C2)Cl | C23H25ClN2
